US04780464
1-Butyl-N-cyclopentyl[1,2,4]triazolo[4,3-a]quinoxalin-4-amine
The title compound was prepared essentially as described in Example 4 substituting 4-chloro-1-butyl[1,2,4]triazolo[4,3-a]quinoxaline for 4-chloro-1-propyl[1,2,4]triazolo[4,3-a]quinoxaline; mp 195°-197° C.

reactant | 4-chloro-1-butyl[1,2,4]triazolo[4,3-a]quinoxaline | ClC=1C=2N(C3=CC=CC=C3N1)C(=NN2)CCCC | C13H13ClN4
reactant | 4-chloro-1-propyl[1,2,4]triazolo[4,3-a]quinoxaline | ClC=1C=2N(C3=CC=CC=C3N1)C(=NN2)CCC | C12H11ClN4
product | 1-Butyl-N-cyclopentyl[1,2,4]triazolo[4,3-a]quinoxalin-4-amine | C(CCC)C1=NN=C2N1C1=CC=CC=C1N=C2NC2CCCC2 | C18H23N5
